US04264599
4.8 g of 2-benzyloxy-3-(2,3-epoxypropoxy)-pyridine and 3.0 g of 1-(4-piperidyl)-imidazolidin-2-one are dissolved in 50 ml of isopropanol and the solution is stirred for 15-18 hours at 20-30°. The crystals which have precipitated out are filtered off with suction and washed with ether and yield 1-{1-[2-hydroxy-3-(2-benzyloxy-3-pyridyloxy)-propyl]-4-piperidyl}-imidazolidin-2-one with a melting point of 145°-147°.

reactant | 2-benzyloxy-3-(2,3-epoxypropoxy)-pyridine | 4.8 g | C(C1=CC=CC=C1)OC1=NC=CC=C1OCC1CO1 | C15H15NO3
reactant | 1-(4-piperidyl)-imidazolidin-2-one | 3.0 g | N1CCC(CC1)N1C(NCC1)=O | C8H15N3O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 1-{1-[2-hydroxy-3-(2-benzyloxy-3-pyridyloxy)-propyl]-4-piperidyl}-imidazolidin-2-one | OC(CN1CCC(CC1)N1C(NCC1)=O)COC=1C(=NC=CC1)OCC1=CC=CC=C1 | C23H30N4O4
